US07429579B2
5-Isoquinolin-1-yl-4-methyl-4H-[1,2,4]triazole-3-thiol
Hydroxybenzotriazole (0.078 g), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.11 g) and triethylamine were added successively to a cooled solution (0° C.) of 4-methyl-3-thiosemicarbazide (0.061 g) and 1-isoquinoline carboxylic acid (0.10 g) in dimethylformamide (3 ml). Following addition the cooling bath was removed and the mixture was stirred at room temperature over night and then the reaction mixture was evaporated to dryness. To the residue was added sodium hydroxide solution (0.5 M, 5 ml) and the mixture was stirred at 80° C. for 3 h. The mixture was cooled to room temperature and the pH adjusted to pH 6 using hydrochloric acid solution (2M) and the resulting precipitate was filtered and dried in vacuo to give the title compound (0.11 g, 78%) as an off-white solid.

reactant | Hydroxybenzotriazole | 0.078 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.11 g | Cl.CN(CCCN=C=NCC)C
reactant | 4-methyl-3-thiosemicarbazide | 0.061 g | CNC(NN)=S | C2H7N3S
reactant | 1-isoquinoline carboxylic acid | 0.10 g | C1(=NC=CC2=CC=CC=C12)C(=O)O | C10H7NO2
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 5-Isoquinolin-1-yl-4-methyl-4H-[1,2,4]triazole-3-thiol | 0.11 g, 78% | C1(=NC=CC2=CC=CC=C12)C=1N(C(=NN1)S)C | C12H10N4S
